US07582796B2
In one embodiment about 4 equivalents of sodium methoxide are mixed with about 1 equivalent of triethylenetetramine tetrahydrochloride in a mixture of methanol and ethanol, for example. The reaction mixture is filtered, the solvent is evaporated, and the product is dissolved in tert-butylmethylether and again filtered and dissolved, giving triethylenetetramine in yield greater than about 95%. The triethylenetetramine is dissolved in about 2.0 equivalents of concentrated hydrochloric acid. Less than about 2 equivalents of concentrated hydrochloric acid may also be used. Ethanol is added and triethylenetetramine dihydrochloride precipitates in yield greater than about 86%. Purity of triethylenetetramine dihydrochloride so produced is about 100%, as determined using the methods set forth in USP27-NF22 (page 1890) for analysis of trientine, with less than about 10 ppm heavy metals as determined by USP <231> II.

reactant | triethylenetetramine | NCCNCCNCCN | C6H18N4
reactant | hydrochloric acid | about 2.0 equivalents | Cl | ClH
reactant | hydrochloric acid | about 2 equivalents | Cl | ClH
solvent | Ethanol | C(C)O | C2H6O
product | triethylenetetramine dihydrochloride | Cl.Cl.NCCNCCNCCN | InChI=1S/C6H18N4.2ClH/c7-1-3-9-5-6-10-4-2-8;;/h9-10H,1-8H2;2*1H
